US04344941
400 mg of 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3β-ol is combined in 2.8 ml of absolute dichloromethane and 1.8 ml of formaldehyde dimethylacetal with a mixture of 600 mg of kieselguhr W 20 and 300 mg of phosphorus pentoxide and stirred for 45 minutes at room temperature. The mixture is vacuumfiltered from the insoluble components and washed with dichloromethane containing 3-5% triethylamine. The crude product obtained after evaporation is chromatographed on silica gel, thus producing 280 mg of 17β-acetoxy-3β-methoxymethoxy-1α-methyl-17α-n-propyl-5α-androstane.

reactant | 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3β-ol | 400 mg | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)C)O)CCC | C25H42O3
reactant | formaldehyde dimethylacetal | 1.8 ml | COCOC | C3H8O2
reactant | phosphorus pentoxide | 300 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | dichloromethane | 2.8 ml | ClCCl | CH2Cl2
product | 17β-acetoxy-3β-methoxymethoxy-1α-methyl-17α-n-propyl-5α-androstane | 280 mg | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)C)OCOC)CCC | C27H46O4
